US04847335
Bisphenol A bis-(methallyl-methyl-bicyclo[2.2.1]hept-5-ene-2-carboxylate)
175 g of methallyl-methyl-bicyclo[2.2.1]hept-5-ene-2-carbonyl chloride are added dropwise at 20° C. within 30 minutes to a solution of 87 g of bisphenol A in 300 ml of pyridine. The mixture is then stirred for a further hour at 80° C. and then worked up as described in Example 2. This gives 205 g (89% of theory) of a brown, liquid resin with η120 =640 mPas. By gel permeation chromatography (THF), the molecular weight is found to be 616 (Mn) or 656 (Mw).

reactant | methallyl-methyl-bicyclo[2.2.1]hept-5-ene-2-carbonyl chloride | 175 g | C(C(C)=C)C1(C2(C=CC(C1)C2)C)C(=O)Cl | C13H17ClO
reactant | bisphenol A | 87 g | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | C15H16O2
reactant | THF | C1CCOC1 | C4H8O
solvent | pyridine | 300 ml | N1=CC=CC=C1 | C5H5N
product | Bisphenol A bis-(methallyl-methyl-bicyclo[2.2.1]hept-5-ene-2-carboxylate) | C(C(C)=C)C1(C2(C=CC(C1)C2)C)C(=O)O.C(C(C)=C)C2(C1(C=CC(C2)C1)C)C(=O)O.OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | InChI=1S/C15H16O2.2C13H18O2/c1-15(2,11-3-7-13(16)8-4-11)12-5-9-14(17)10-6-12;2*1-9(2)6-13(11(14)15)8-10-4-5-12(13,3)7-10/h3-10,16-17H,1-2H3;2*4-5,10H,1,6-8H2,2-3H3,(H,14,15)
